US04804400
A mixture of 6 g of N-(2-fluoro-5-carboxy-4-chlorophenyl)-2,3-dimethylmaleic acid imide, 0.5 ml of dimethylmaleinimide, 2 ml of thionyl chloride and 50 ml of toluene is heated under reflux for 4 hours. After cooling, the whole is concentrated by evaporation in vacuo. 6 g of N-(2-fluoro-5-chlorocarbonyl-4-chlorophenyl)-2,3-dimethylmaleic acid imide having a melting point of 123°-124° are obtained.

reactant | N-(2-fluoro-5-carboxy-4-chlorophenyl)-2,3-dimethylmaleic acid imide | 6 g | FC1=C(C=C(C(=C1)Cl)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H9ClFNO4
reactant | dimethylmaleinimide | 0.5 ml | CC1=C(C(=O)NC1=O)C | C6H7NO2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-fluoro-5-chlorocarbonyl-4-chlorophenyl)-2,3-dimethylmaleic acid imide | 6 g | FC1=C(C=C(C(=C1)Cl)C(=O)Cl)N1C(C(=C(C1=O)C)C)=O | C13H8Cl2FNO3
